US04535089
13.7 g of sodium methoxide are dissolved in 200 ml of dimethylformamide, and 19.4 g of methyl α-isocyanoacetate are added dropwise thereto at -50° C. to -40° C. The mixture is stirred at the same temperature for 30 minutes. 25 g of isobutyryl chloride are gradually added to the mixture at -50° C. to -40° C., and said mixture is stirred at the same temperature for 2 hours. After the reaction, the mixture is adjusted to pH 3-4 with acetic acid and then condensed under reduced pressure to remove solvent. The residue is extracted with ethyl acetate and the extract is washed with aqueous sodium bicarbonate solution and water, successively. The extract is then dried and condensed under reduced pressure to remove solvent. 23.1 g of 5-isopropyl-4-methoxycarbonyloxazole are obtained. Yield: 70.0%.

reactant | sodium methoxide | 13.7 g | C[O-].[Na+]
reactant | methyl α-isocyanoacetate | 19.4 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | isobutyryl chloride | 25 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-isopropyl-4-methoxycarbonyloxazole | 23.1 g, Yield: 70.0% | C(C)(C)C1=C(N=CO1)C(=O)OC | C8H11NO3
